US07393959B2
To a solution of 2-(2-methoxy-4-nitrophenyl)pyridine (5.4 g, 23.3 mmol), dimethyl hydrazine (14 mL, 233 mmol), charcoal (0.7 g), in methanol (200 mL) was added iron trichloride (0.075 g, 0.46 mmol), then heated at 65° C. overnight. The reaction mixture was quenched with H2O (50 mL), then extracted with EtOAc (3×50 mL) and the combined organic extracts washed with brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude purified by liquid chromatography on silica (EtOAc/Hexane 3/7) to give 3-methoxy-4-pyridin-2-ylaniline.

reactant | 2-(2-methoxy-4-nitrophenyl)pyridine | 23.3 mmol, 5.4 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=NC=CC=C1 | C12H10N2O3
reactant | dimethyl hydrazine | 233 mmol, 14 mL | CNNC | C2H8N2
reactant | charcoal | 0.7 g | C | CH4
solvent | methanol | 200 mL | CO | CH4O
catalyst | iron trichloride | 0.46 mmol, 0.075 g | [Fe](Cl)(Cl)Cl
product | 3-methoxy-4-pyridin-2-ylaniline | COC=1C=C(N)C=CC1C1=NC=CC=C1 | C12H12N2O
